### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms/EisensteinSeries): Update gammaSet

### PR DESCRIPTION
**Pull request by CBirkbeck**
We  redefine gammaSet to include vectors with non-trivial gcd.  This is useful for giving the q-expansions of Eisenstein series at level one. Which can be seen here #27606  (these equivalences are used in `tsum_prod_eisSummand_eq_riemannZeta_eisensteinSeries` in the QExpansions file).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean [hunk 1]
```diff
@@ -53,6 +53,80 @@ lemma gammaSet_one_eq (a a' : Fin 2 → ZMod 1) : gammaSet 1 a = gammaSet 1 a' :
...
+/-- The set of pairs of integers with gcd 1 scaled by a natural number `N`, making them have gcd
+equal to N. -/
+def gammaSetN (N : ℕ) : Set (Fin 2 → ℤ) := ({N} : Set ℕ) • gammaSet 1 0
+
+/-- The map from `gammaSetN` to `gammaSet` given by forgetting the scalar multiple in
+`gammaSetN`. -/
+noncomputable def gammaSetN_map (N : ℕ) (v : gammaSetN N) : gammaSet 1 0 := by
+  have hv2 := v.2
+  simp only [gammaSetN, singleton_smul, mem_smul_set, nsmul_eq_mul] at hv2
+  refine ⟨hv2.choose, hv2.choose_spec.1⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean]: I don't like the use of `gammaSetN N` and `gammaSet 1 0` as types and also the choose stuff.
The map can be defined on `Fin 2 → ℤ` simply as `fun v i ↦ v i / N`.
Then one can show `Set.BijOn (fun v i ↦ v i / N) (gammaSetN N) (gammaSet 1 0)` (instead of `gammaSetN_Equiv`) and use that.
Instead again converting to types in `Σ n : ℕ, gammaSetN n`, you can use a union of sets (and show that it is disjoint). Basically, `gammaSetN N` is the fiber above `N` of the map that sends `v : Fin 2 → ℤ` to `Nat.gcd (v 0) (v 1)`; maybe this would actually be the better definition?

Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean]: Thanks, this was a good idea, I think it looks better now, although maybe you or someone can see some more golfing that can be done.

File: Mathlib/RingTheory/EuclideanDomain.lean [hunk 2]
```diff
@@ -51,6 +51,13 @@ theorem isCoprime_div_gcd_div_gcd (hq : q ≠ 0) :
         (EuclideanDomain.mul_div_cancel' (gcd_ne_zero_of_right hq) <| gcd_dvd_right _ _).symm <|
       gcd_ne_zero_of_right hq
 
+theorem isCoprime_div_gcd_div_gcd' (hpq : GCDMonoid.gcd p q ≠ 0) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/EuclideanDomain.lean]: Why not use [isCoprime_div_gcd_div_gcd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/EuclideanDomain.html#isCoprime_div_gcd_div_gcd) instead? The assumption `q ≠ 0` is easy to get from `gcd p q ≠ 0`.
(In any case, the primed version should have a docstring explaining how it differs from the unprimed one.)

**Comment by MichaelStollBayreuth** [comment]
Can you say what you are planning to use `gammaSetN` for? This would help figuring out how to set up the API. E.g., would `gammaSetN 1 = gammaSet 1 0` be useful? or `M • gammaSetN N = gammaSetN (M * N)`?

A general remark: please check the [naming convention](https://leanprover-community.github.io/contribute/naming.html); not all names adhere to it.
Also, the `N` in `gammaSetN` is a bit problematic, as `N` is the *name* of the argument and has no intrinsic mathematical meaning.

File: Mathlib/RingTheory/EuclideanDomain.lean (hunk 2 above)
Comment (CBirkbeck) [reply Mathlib/RingTheory/EuclideanDomain.lean]: So I couldn't see a super easy way to get this one from the previous one, since all I could find to help was `Int.ne_zero_of_gcd`. So I thought it would be best to just have the version we want since its easy to prove directly.

**Comment by CBirkbeck** [comment]
> Can you say what you are planning to use `gammaSetN` for? This would help figuring out how to set up the API. E.g., would `gammaSetN 1 = gammaSet 1 0` be useful? or `M • gammaSetN N = gammaSetN (M * N)`?


Sorry I tagged this in #27606 but didnt mention it on the description here. This is for the q-expansions of Eisenstein series of level one. Our general definition is sums over coprime pairs of integers, but to get the usual q-expansions at level one, one needs to relate this to the sum over all pairs of integers and then take out a riemannZeta factor. In doing this it seemed best to make this definition. But at the moment it doesn't need any more API than what is here really, since its just the equivalences that are mainly needed for all the tsums later.

**Comment by MichaelStollBayreuth** [comment]
I didn't find any application of your `gammaSetWithGcd` in the linked PRs, so I find it hard to judge what exactly would be needed here. I'm still wary of the promotion of the set to a type.

From what you mention above, I assume that you want something like
```lean
lemma foo {f : (Fin 2 → ℕ) → ℂ} {k : ℕ} (hk : 2 ≤ k) (h : ∀ (m : ℕ) n, f n = m ^ k * f (m • n)) (a : ℂ) : 
    HasSum f (a * riemannZeta k) ↔ HasSum (fun n : {n : Fin 2 → ℕ // IsCoprime (n 0) (n 1)} ↦ f n) a := ...
```
This should be doable without setting up `gammaSetWithGcd` in the first place. I'll try to come up with something.

**Comment by CBirkbeck** [comment]
So it is used in this PR: #27606, specifically, the equivalence is used to prove

```

lemma tsum_prod_eisSummand_eq_riemannZeta_eisensteinSeries {k : ℕ} (hk : 3 ≤ k) (z : ℍ) :
    ∑' (x : Fin 2 → ℤ), eisSummand k x z = (riemannZeta (k)) * (eisensteinSeries 𝟙 k z) := by
```
which is on line 265 of the QExpansion file (sorry I dont know how to link directly to a file). 

Edit: Also the names aren't updated in this draft PR yet. So it still uses `gammaSetN`

**Comment by loefflerd** [comment]
Hi Chris, 

With this PR, as currently written, we have two separate defs for "pairs with GCD = 1 and congruence condition a mod N" and "pairs with GCD = N and no congruence condition". Might it be better to have a single, more general definition "pairs with GCD = r and congruence condition a mod N"? This will make it much easier to generalize the q-expansion computation later to cover Eisenstein series of arbitrary level. I'm not saying we should necessarily do the q-exp computation in general levels from the start (the perfect is the enemy of the good, etc), just that we should bear in mind that it might come later so we shouldn't actively conspire against it.

**Comment by CBirkbeck** [comment]
Ok so I make `gammaSet`'s more general now. They come with a gcd condition which should be enough for future aplications as well.

File: Mathlib/RingTheory/EuclideanDomain.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/RingTheory/EuclideanDomain.lean]: The assumption `q ≠ 0` is cannot be got from `gcd p q ≠ 0`, since e.g. `gcd 1 0 = 1`. So the new lemma added in this PR is actually stronger than the existing one. Maybe we should call the new one `isCoprime_div_gcd_div_gcd_of_gcd_ne_zero`, for clarity, rather than priming it.

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean [hunk 3]
```diff
@@ -25,52 +26,140 @@ import Mathlib.NumberTheory.ModularForms.CongruenceSubgroups
...
 
 end gammaSet_def
 
-variable {N a}
+variable {N a r} [NeZero r]
 
 section gamma_action
 
+/-- A vector with coprime entries, right-multiplied by a matrix in `SL(2, R)`, has
+coprime entries. -/
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean]:
```suggestion
/-- Right-multiplying a vector by a matrix in `SL(2, ℤ)` doesn't change its gcd. -/
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean [hunk 4]
```diff
@@ -25,52 +26,140 @@ import Mathlib.NumberTheory.ModularForms.CongruenceSubgroups
...
+/-- The equivalence between `gammaSet 1 r 0` and `gammaSet 1 1 0` for non-zero `r`. -/
+def gammaSetDivGcdEquiv (r : ℕ) [NeZero r] : gammaSet 1 r 0 ≃ gammaSet 1 1 0 :=
+    Set.BijOn.equiv _ (gammaSet_div_gcd_to_gammaSet10_bijection r)
+
+/-- The equivalence between `(Fin 2 → ℤ)` and `Σ n : ℕ, gammaSet 1 n 0)` . -/
+def gammaSetDivGcdSigmaEquiv : (Fin 2 → ℤ) ≃ (Σ r : ℕ, gammaSet 1 r 0) := by
+  apply ((Equiv.sigmaFiberEquiv finGcdMap).symm).trans
+  refine Equiv.sigmaCongrRight fun b => ?_
+  apply Equiv.setCongr
+  rw [fun n => gammaSet_one_eq n 0]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean]:
```suggestion
  rw [gammaSet_one_eq]
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean [hunk 5]
```diff
@@ -25,52 +26,140 @@ import Mathlib.NumberTheory.ModularForms.CongruenceSubgroups
...
+  · intro x hx v hv hv2
+    ext i
+    exact (Int.ediv_left_inj (gammaSet_div_gcd hx i) (gammaSet_div_gcd hv i)).mp
+      (congr_fun hv2 i)
+  · intro x hx
+    use r • x
+    simp only [nsmul_eq_mul, divIntMap, Int.cast_natCast]
+    constructor
+    · rw [gammaSet_top_mem, Int.isCoprime_iff_gcd_eq_one] at hx
+      exact ⟨by apply Subsingleton.eq_zero, by simp [Int.gcd_mul_left, hx]⟩
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean]:
```suggestion
      exact ⟨Subsingleton.eq_zero _, by simp [Int.gcd_mul_left, hx]⟩
```

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean [hunk 6]
```diff
@@ -25,52 +26,140 @@ import Mathlib.NumberTheory.ModularForms.CongruenceSubgroups
...
+  aesop
+
+lemma finGcdMap_smul {r : ℕ} (a : ℤ) {v : Fin 2 → ℤ} (hv : finGcdMap v = r) :
+    finGcdMap (a • v) = a.natAbs * r := by
+  simp [finGcdMap, Int.gcd_mul_left, hv]
+
+/-- An abbreviation of the map which divides a integer vector by an integer. -/
+abbrev divIntMap (r : ℤ) {m : ℕ} (v : Fin m → ℤ) : Fin m → ℤ := v / r
+
+lemma gammaSet_top_mem (v : Fin 2 → ℤ) : v ∈ gammaSet 1 1 0 ↔ IsCoprime (v 0) (v 1) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/Defs.lean]:
```suggestion
lemma mem_gammaSet_one (v : Fin 2 → ℤ) : v ∈ gammaSet 1 1 0 ↔ IsCoprime (v 0) (v 1) := by
```

**Review by loefflerd — APPROVED** [review]
This looks pretty good now, just a few minor things I spotted while reading it.

**Comment by loefflerd** [comment]
LGTM now, thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
